US03968219
164 g. of polyphosphoric acid ethyl ester is dissolved in 60 ml. of chloroform. A suspension of 14.86 g. of adipic acid and 40.0 g. of p-(phenylazo)-phenol in 340 ml. of chloroform is added to this solution. The reaction mixture is agitated for 4 hours. Then, 35 g. of adipic acid bis(4-phenylazophenyl)ester is obtained by vacuum-filtering the reaction mixture; this product is recrystallized from ethyl acetate. In this way, 30 g. of a pure compound is obtained, m.p. 176°-177° C.

reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | p-(phenylazo)-phenol | C1(=CC=CC=C1)N=NC1=CC=C(C=C1)O | C12H10N2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | adipic acid bis(4-phenylazophenyl)ester | C1(=CC=CC=C1)N=NC1=CC=C(C=C1)OC(CCCCC(=O)OC1=CC=C(C=C1)N=NC1=CC=CC=C1)=O | C30H26N4O4
